datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:5])[H:6],38.1162
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[c:15]1[c:16]([H:21])[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]1[H:25])[H:7],-5.89944
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([S:12][H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])([S:12][H:17])[H:16],23.5559
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([C:9](=[S:10])[H:13])([H:11])[H:12],107.11
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:11])[H:10])([H:8])[H:9],66.5674
[Cl:0].[c:1]1([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12]>>[Cl:0][H:7].[c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],31.6
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]=[S:18])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:19])[H:20])[H:21])=[S:18],49.3712
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:8][C:7]([H:9])([H:10])[H:11],29.7064
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34],46.6516
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:12][C:11]([H:13])([H:14])[H:15],29.288
[C:0]([C:1]([S:2][H:8])[C:3](=[S:4])[H:9])([H:5])([H:6])[H:7].[S:10]=[C:11]([C:12]([S:13][H:17])([H:15])[H:16])[H:14]>>[C:0]([C:1]([S:2][H:8])([C:3](=[S:4])[H:9])[H:15])([H:5])([H:6])[H:7].[S:10]=[C:11]([C:12]([S:13][H:17])[H:16])[H:14],38.9112
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11],0.0
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[S:7]=[C:8]([C:9]([S:10][H:14])([H:12])[H:13])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:12])([H:4])[H:5].[S:7]=[C:8]([C:9]([S:10][H:14])[H:13])[H:11],53.9736
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:21]([C:22](=[C:23]([H:27])[H:28])[H:26])([H:24])[H:25])[H:11],53.7644
[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:5])([H:6])[H:7].[H:11]>>[C:0]([S:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])=[O:4])([H:6])[H:7].[H:5][H:11],39.3
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([S:16][H:19])[H:18])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:17])([S:16][H:19])[H:18],32.6352
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[H:14])[H:12])([H:10])[H:11],30.9616
